US08309562B2
N4-(6-methoxypyridin-3-yl)-N-methyl-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methylamine (10 mg, 0.030 mmol) and 7 M ammonia in methanol (1 mL) by a procedure similar to Example 10 (3 mg, 30%). 1H NMR (CDCl3): 8.04 (dd, J=2.9, 0.6 Hz, 1H), 7.49-7.43 (m, 2H), 7.39 (dd, J=5.7 and 2.7 Hz, 1H), 6.92 (brd, J=8.4 Hz, 1H), 6.85-6.78 (m, 2H), 5.65 (s, 2H), 3.96 (s, 3H), 3.54 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methylamine | 0.030 mmol, 10 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C15H13ClN4O
reactant | ammonia | 7 M | N | H3N
reactant | methanol | 1 mL | CO | CH4O
product | N4-(6-methoxypyridin-3-yl)-N-methyl-quinazoline-2,4-diamine | COC1=CC=C(C=N1)NC1=NC(=NC2=CC=CC=C12)NC | C15H15N5O
